US06391901B1
Part C. 3-Methoxy-4-[2-(1-pyrrolidinyl)ethoxy]phenyl 2-(4-Triisopropylsilyloxyphenyl)benzo[b]thiophen-3-yl Ketone
A slurry of 4.34 g (14.4 mmol) of 3-methoxy-4-[2-(1-pyrrolidinyl)ethoxy]benzoic acid hydrochloride (Part G, below) in 75 mL of dichloroethane was treated with 2 drops of DMF followed by 5.00 mL (57.3 mmol; 4 eq) of oxalyl chloride. The reaction was stirred at ambient temperature until gas evolution ceased and was concentrated in vacuo. The solid was reconstituted in 75 mL dichloroethane. The mixture was cooled to 0° C., treated with 5.00 g (13.0 mmol; 0.9 eq) of 2-(4-triisopropylsilyloxyphenyl)benzo[b]thiophene (Part B) and 6.40 mL (58.4 mmol; 4 eq) of TiCl4, and stirred at ambient temperature for 5 h. The reaction was quenched by the addition of 50 mL of sat'd aq NaHCO3. The two layers were separated and the aqueous layer was extracted with EtOAc (4×25 mL). The combined organic layers were washed with H2O (50 mL), dried over K2CO3, filtered, and concentrated in vacuo to give an oil. Flash chromatography (SiO2; 15% THF and 5% TEA in hexanes) afforded 5.60 g (8.90 mmol; 62%) of the title compound as an oil.

reactant | 3-methoxy-4-[2-(1-pyrrolidinyl)ethoxy]benzoic acid hydrochloride | 14.4 mmol, 4.34 g | Cl.COC=1C=C(C(=O)O)C=CC1OCCN1CCCC1
reactant | oxalyl chloride | 57.3 mmol, 5.00 mL, 4 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-triisopropylsilyloxyphenyl)benzo[b]thiophene | 13.0 mmol, 5.00 g, 0.9 eq | C(C)(C)[Si](OC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2)(C(C)C)C(C)C | C23H30OSSi
reactant | THF | C1CCOC1 | C4H8O
solvent | dichloroethane | 75 mL | ClC(C)Cl | C2H4Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
catalyst | TiCl4 | 58.4 mmol, 6.40 mL, 4 eq | Cl[Ti](Cl)(Cl)Cl
product | 3-Methoxy-4-[2-(1-pyrrolidinyl)ethoxy]phenyl 2-(4-Triisopropylsilyloxyphenyl)benzo[b]thiophen-3-yl Ketone | C(C)(C)[Si](OC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC(=C(C=C2)OCCN2CCCC2)OC)(C(C)C)C(C)C | C37H47NO4SSi
